US07662581B1
Synthesis of 2-{3-[1-(1-Benzyl-1H-benzimidazol-2-yl)-2-methyl-propylamino]-propyl}-isoindole-1,3-dione
To a solution of 1-(1-benzyl-1H-benzimidazol-2-yl)-2-methyl-propylamine (160 mg, 0.56 mmol) and 3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propionaldehyde (114 mg, 0.56 mmol) in dry DCM (3 ml) at room temperature, was added sodium triacetoxyborohydride (119 mg, 0.56 mmol). After 10 minutes, acetic acid (34 μl, 0.56 mmol) was added to the reaction mixture. The mixture was stirred at room temperature for 1 hour. The solvent was removed in vacuo and the solid was dissolved in ethyl acetate. The organic layer was washed with saturated NaHCO3, dried over MgSO4, filtered and the filtrate was concentrated in vacuo. The crude product was purified by flash chromatography to give material that was used in Example 5g.

reactant | 1-(1-benzyl-1H-benzimidazol-2-yl)-2-methyl-propylamine | 0.56 mmol, 160 mg | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C(C(C)C)N | C18H21N3
reactant | 3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propionaldehyde | 0.56 mmol, 114 mg | O=C1N(C(C2=CC=CC=C12)=O)CCC=O | C11H9NO3
reactant | sodium triacetoxyborohydride | 0.56 mmol, 119 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.56 mmol, 34 μl | C(C)(=O)O | C2H4O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-{3-[1-(1-Benzyl-1H-benzimidazol-2-yl)-2-methyl-propylamino]-propyl}-isoindole-1,3-dione | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C(C(C)C)NCCCN2C(C1=CC=CC=C1C2=O)=O | C29H30N4O2
